US09290517B2
Step C: (3S)-6-[[6-chloro-5-[4-(3,5-difluoro-2-hydroxy-phenyl)phenyl]-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol
A mixture of (3S)-6-[[6-chloro-5-[4-(3,5-difluoro-2-methoxy-phenyl)phenyl]-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol (5.2 mg, 0.01 mmol), and lithium chloride (45.0 mg, 1.06 mmol) in DMF (0.5 mL) was heated in a 140° C. oil bath for 20 hours and then 3.5 additional hours at 150° C. The reaction mixture was cooled to room temperature and purified by preparative HPLC reverse phase (C-18), using a 30×150 mm Sunfire™ column eluting with a 20%-100% acetonitrile/water+0.05% TFA gradient followed by a 100% acetonitrile/water+0.05% TFA flush. The desired fractions were combined, evaporated under reduced pressure, and lyophilized from ethanol and benzene to give the title compound as a light yellow solid. LC-MS: calculated for C24H18ClF2N3O5 501.09 observed m/e: 502.13 (M+H)+ (Rt 1.16/2 min); 1H NMR δ (ppm) (CD3OD): 7.83 (s, 1H), 7.66-7.74 (m, 4H), 6.93-6.98 (m, 2H), 5.55 (qt, 1H), 4.97 (t, 1H), 4.47 (t, 1H), 4.26-4.30 (m, 1H), 4.17 (dd, 1H), 4.11 (dd, 1H), 3.90 (t, 1H), 3.60 (t, 1H).

reactant | (3S)-6-[[6-chloro-5-[4-(3,5-difluoro-2-methoxy-phenyl)phenyl]-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | 0.01 mmol, 5.2 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=C(C(=CC(=C1)F)F)OC)N=C(N2)OC2COC1C2OC[C@@H]1O | C25H20ClF2N3O5
reactant | lithium chloride | 1.06 mmol, 45.0 mg | [Cl-].[Li+]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | (3S)-6-[[6-chloro-5-[4-(3,5-difluoro-2-hydroxy-phenyl)phenyl]-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=C(C(=CC(=C1)F)F)O)N=C(N2)OC2COC1C2OC[C@@H]1O | C24H18ClF2N3O5
